US05013352
6-(4-(Methylthio)phenoxy)picolinaldehyde
A solution of 38.7 g (0.141 mol) of methyl 6-(4-(methylthio)phenoxy)picolinate in 250 mL of toluene was cooled to a minus 70° C. in a dry ice-acetone bath. To the thus prepared slurry was added dropwise 285 mL of 1 Molar DIBAL-H in hexane over 1.5 hours. The solution was stirred at minus 70° C. for 20 minutes and an additional 20 mL of 1 Molar DIBAL-H in hexane was added. After 15 minutes, a solution of 187.5 mL of diether ether, 62.5 mL of glacial acetic acid and 15 mL of water was added dropwise over 1.5 hours at minus 65° C. with a white solid forming. The thus formed slurry was allowed to stir at ambient temperature overnight and the white solid was collected by filtration and washed with diether ether. The filtrate was washed thrice with 250 mL portions of water followed by washing with 250 mL of a 10 percent sodium bicarbonate solution and then with 250 mL of water. The organic layer was then dried over sodium sulfate and the solvent removed in vacuo leaving 32.4 g (94.1 percent of theoretical) of the above named compound, a white crystalline solid, melting at 60° -63° C.; 1H NMR (CDCl3) δ2.40 (s, 3H, CH3S--), 6.9-7.9 (m, 7H, ArH),9.75 (s, 1H, --CH=O).

reactant | methyl 6-(4-(methylthio)phenoxy)picolinate | 0.141 mol, 38.7 g | CSC1=CC=C(OC2=CC=CC(=N2)C(=O)OC)C=C1 | C14H13NO3S
reactant | DIBAL-H | 1 Molar, 285 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL-H | 1 Molar, 20 mL | CC(C)C[AlH]CC(C)C
reactant | acetic acid | 62.5 mL | C(C)(=O)O | C2H4O2
reactant | water | 15 mL | O | H2O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 6-(4-(Methylthio)phenoxy)picolinaldehyde | CSC1=CC=C(OC2=CC=CC(=N2)C=O)C=C1 | C13H11NO2S
